US07666879B2
1-(5-tert-Butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[4-(piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea hydrochloride
Dissolve 4-[4-(3-{4-[3-(5-tert-Butyl-isoxazol-3-yl)-ureido]-3-fluoro-phenyl}-imidazo[1,2-a]pyridin-7-yl)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester (1.53 g, 2.24 mmol) in CH2Cl2 (25 mL), to which is added HCl (5.6 mL, 4 M in dioxane). Stir at room temperature for three hours, then concentrate in vacuo to give light brown solid as product (1.60 g, 115%). MS (ES), m/z 582 (M+1, free base).

reactant | 4-[4-(3-{4-[3-(5-tert-Butyl-isoxazol-3-yl)-ureido]-3-fluoro-phenyl}-imidazo[1,2-a]pyridin-7-yl)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester | 2.24 mmol, 1.53 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC(=C(C=C2)NC(=O)NC2=NOC(=C2)C(C)(C)C)F)=O | C37H40FN7O5
reactant | HCl | 4 M, 5.6 mL | Cl | ClH
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-tert-Butyl-isoxazol-3-yl)-3-(2-fluoro-4-{7-[4-(piperazine-1-carbonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-urea hydrochloride | Cl.C(C)(C)(C)C1=CC(=NO1)NC(=O)NC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCNCC2)F | InChI=1S/C32H32FN7O3.ClH/c1-32(2,3)27-18-28(38-43-27)37-31(42)36-25-9-8-23(16-24(25)33)26-19-35-29-17-22(10-13-40(26)29)20-4-6-21(7-5-20)30(41)39-14-11-34-12-15-39;/h4-10,13,16-19,34H,11-12,14-15H2,1-3H3,(H2,36,37,38,42);1H
